US04166177
To a solution of 2,2-dioxo-6-(1,1-dimethylethyl)-8-iodo-1,2,3-benzoxathiazine (2 g., 5.5 millimole) in methanol (75 ml.) is added sodium borohydride (0.21 g., 5.5 millimole) portionwise with stirring at 20° C. The resulting reaction solution is stirred at 20° C. for 16 hours and then concentrated in vacuo leaving a residual solid which is triturated with water (50 ml.). The insoluble solid is collected and crystallized from 40% ethanol-acetic acid (25:2; v:v) to give 2,2-dioxo-3,4-dihydro-6-(1,1-dimethylethyl)-8-iodo-1,2,3-benzoxathiazine as colorless crystals (1.7 g., 85%), m.p. 154°-155° C.

reactant | 2,2-dioxo-6-(1,1-dimethylethyl)-8-iodo-1,2,3-benzoxathiazine | 5.5 millimole, 2 g | O=S1(OC2=C(C=N1)C=C(C=C2I)C(C)(C)C)=O | C11H12INO3S
reactant | sodium borohydride | 5.5 millimole, 0.21 g | [BH4-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
product | 2,2-dioxo-3,4-dihydro-6-(1,1-dimethylethyl)-8-iodo-1,2,3-benzoxathiazine | O=S1(OC2=C(CN1)C=C(C=C2I)C(C)(C)C)=O | C11H14INO3S
